US05062881
Preparation of Methyl 2,3-dimethyl-2-[(1-oxo-2,3-benzoxazin-4-yl)amino]butyrate
A solution of methyl 2-amino-2,3-dimethylbutyrate (2.76 g, 0.019 mol), and triethylamine (1.97 g, 0.0195 mol) and tetrahydrofuran is added dropwise to a 5° C. mixture of benzyl o-(chloroformyl)benzoate, o-oxime (6.0 g, 0.02 mol) (which is prepared following the procedure in examples 1 and 2 ) and tetrahydrofuran under a nitrogen stream. The reaction mixture is stirred at room temperature for 21 hours, filtered to remove solids and the filtrate is concentrated in vacuo to give a yellow oil. The oil is dissolved into methylene chloride. The methylene chloride solution is washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give a yellow oil. Crystallization of the oil from a benzene/hexanes/methylene chloride solution yields a white solid. The solid i chromatographed using neutral alumina and 4% ethyl acetate in methylene chloride as eluent to give the title compound as a white solid (2.41 g, 40%), mp 132°-134°, identified by IR and NMR spectral analyses.

reactant | methyl 2-amino-2,3-dimethylbutyrate | 0.019 mol, 2.76 g | NC(C(=O)OC)(C(C)C)C | C7H15NO2
reactant | triethylamine | 0.0195 mol, 1.97 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | benzyl o-(chloroformyl)benzoate | ClC(=O)C1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C15H11ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2,3-dimethyl-2-[(1-oxo-2,3-benzoxazin-4-yl)amino]butyrate | 2.41 g, 40% | CC(C(=O)OC)(C(C)C)NC1=NOC(C2=C1C=CC=C2)=O | C15H18N2O4
